US04431589
2-Methyl-4[4,5-dichloro-2-nitroanilino]-1,2,3-triazole-5-carbonitrile
To a solution of 4-amino-2-methyl-1,2,3-triazole-5-carbonitrile (1.7 g) in tetrahydrofuran (40 ml) under nitrogen was added sodium hydride (1.0 g, 50% oil dispersion) at room temperature. After 15 minutes, 2,4,5-trichloronitro-benzene (3.13 g) was added to the mixture, which was stirred for six hours under nitrogen. The deep-red solution was then quenched in ice/water/HCl and filtered to leave a yellow-orange solid. The solid was chromatographed on a magnesium silicate column using dichloromethane. The purified product was recrystallised from ethanol to give an orange crystalline solid, melting point 148°-150° C.

reactant | 4-amino-2-methyl-1,2,3-triazole-5-carbonitrile | 1.7 g | NC1=NN(N=C1C#N)C | C4H5N5
reactant | sodium hydride | 1.0 g | [H-].[Na+]
reactant | 2,4,5-trichloronitro-benzene | 3.13 g | ClC1=C(C=C(C(=C1)Cl)Cl)[N+](=O)[O-] | C6H2Cl3NO2
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 2-Methyl-4[4,5-dichloro-2-nitroanilino]-1,2,3-triazole-5-carbonitrile | CN1N=C(C(=N1)NC1=C(C=C(C(=C1)Cl)Cl)[N+](=O)[O-])C#N | C10H6Cl2N6O2
